US07834051B2
tert-Butyl(2S,3S)-3-hydroxy-2,3-dimethyl-5-oxo-pyrrolidine-1-carboxylate
To a solution of tert-butyl(2S,3S)-3-hydroxy-2,3-dimethylpyrrolidine-1-carboxylate (3.05 g) in ethyl acetate (45 mL) were successively added water (68 mL), ruthenium dioxide monohydrate (566 mg) and sodium periodate (4.57 g) at room temperature. The mixture was stirred at room temperature for 40 hr, the organic layer and the aqueous layer were separated, and the aqueous layer was extracted with ethyl acetate. The obtained organic layers were mixed, isopropanol (0.7 mL) was added, and the mixture was stirred at room temperature for 5 min. The reaction solution was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/10→4/10) to give the title compound as a white powder (yield: 1.11 g, 34%).

reactant | tert-butyl(2S,3S)-3-hydroxy-2,3-dimethylpyrrolidine-1-carboxylate | 3.05 g | O[C@@]1([C@@H](N(CC1)C(=O)OC(C)(C)C)C)C | C11H21NO3
reactant | water | 68 mL | O | H2O
reactant | sodium periodate | 4.57 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | ethyl acetate | 45 mL | C(C)(=O)OCC | C4H8O2
catalyst | ruthenium dioxide monohydrate | 566 mg | O.[Ru](=O)=O
product | tert-Butyl(2S,3S)-3-hydroxy-2,3-dimethyl-5-oxo-pyrrolidine-1-carboxylate | yield: 1.11 g, 34% | O[C@@]1([C@@H](N(C(C1)=O)C(=O)OC(C)(C)C)C)C | C11H19NO4
